US05550125
4.1. N-(5-Chloro-2-hydroxyphenyl)trifluoroacetamide.
25 g (0.174 mol) of 2-amino-4-chlorophenol are suspended in 320 ml of diethyl ether in a 1 litre reactor, with magnetic stirring, and 18 ml of pyridine are added. The medium is cooled with a mixture of ice and ethanol, 24.6 ml (0.174 mol) of trifluoroacetic anhydride are added dropwise over 1 hour, the mixture is allowed to return to room temperature and stirring is continued for 1 hour.

reactant | 2-amino-4-chlorophenol | 0.174 mol, 25 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
reactant | ethanol | C(C)O | C2H6O
reactant | trifluoroacetic anhydride | 0.174 mol, 24.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | diethyl ether | 320 ml | C(C)OCC | C4H10O
product | N-(5-Chloro-2-hydroxyphenyl)trifluoroacetamide | ClC=1C=CC(=C(C1)NC(C(F)(F)F)=O)O | C8H5ClF3NO2
